US04904674
3-[2-(5-Acetoxymethyl-2-thienyl)ethenyl]benzo[b]thiophene
To a stirred solution of 3-[2-(5-hydroxymethyl-2-thienyl)ethenyl]-benzo[b]thiophene (5.35 g) and pyridine (50 ml) was added over 5 mins acetyl chloride (1.54 g). The mixture was stirred at ambient temperature overnight and was poured into water (500 ml). The mixture was extracted with dichlormethane, and the combined organic phase was washed with 5% aqueous hydrochloric acid, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by high performance liquid chromatography (silica gel, sample loaded in dichloromethane, eluted with 15% ethyl acetate in hexane.) The appropriate fractions were combined and concentrated. The residue was recrystallized from cyclohexane to afford 3.15 g (51%) of product, mp 66°-68° C.

reactant | 3-[2-(5-hydroxymethyl-2-thienyl)ethenyl]-benzo[b]thiophene | 5.35 g | OCC1=CC=C(S1)C=CC=1C2=C(SC1)C=CC=C2 | C15H12OS2
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.54 g | C(C)(=O)Cl | C2H3ClO
solvent | water | 500 ml | O | H2O
product | 3-[2-(5-Acetoxymethyl-2-thienyl)ethenyl]benzo[b]thiophene | 3.15 g, 51% | C(C)(=O)OCC1=CC=C(S1)C=CC=1C2=C(SC1)C=CC=C2 | C17H14O2S2
